US07037916B2
N-Boc-L-leucine 3-methoxypropyl amide (463 mg, 1.54 mmol) was in CH3OH (10 mL) was treated with acetyl chloride (1 mL). After 45 minutes, all volatiles were removed under reduced pressure to yield L-leucine 3-methoxypropyl amide hydrochloride (310 mg, quant.) as a sticky solid.

reactant | N-Boc-L-leucine 3-methoxypropyl amide | 1.54 mmol, 463 mg | COCCCNC([C@@H](NC(=O)OC(C)(C)C)CC(C)C)=O | C15H30N2O4
reactant | acetyl chloride | 1 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH3OH | 10 mL | CO | CH4O
product | L-leucine 3-methoxypropyl amide hydrochloride | 310 mg | Cl.COCCCNC([C@@H](N)CC(C)C)=O | InChI=1S/C10H22N2O2.ClH/c1-8(2)7-9(11)10(13)12-5-4-6-14-3;/h8-9H,4-7,11H2,1-3H3,(H,12,13);1H/t9-;/m0./s1
